US06916816B2
Preparation of (±)-cis-1-(Phenanthrene-2-ylcarbonyl)Piperazine-2,3-Dicarboxylic Acid (PPDA)
2-Carboxyphenanthrene (2 g, 0.009 mol) was suspended in dry benzene (50 ml) and heated under reflux in the presence of thionyl chloride (5 ml) for 5 hr. The solvent was removed and the corresponding acid chloride was used without further purification. Piperazine-2,3-dicarboxylic acid (0.508 g, 0.003 mol) was dissolved in a 0.991 M aqueous sodium hydroxide solution (9.4 ml, 0.009 mol), dioxane (10 ml) was added and the solution was cooled to 0° C. A solution of the acid chloride (0.84 g, 0.0035 mol) in dioxane (10 ml) was added to the reaction mixture. The reaction was warmed to room temperature and stirred for 2-3 hr. The reaction mixture was acidified to pH 2-3 with aqueous HCl. The solid was filtered, dissolved in dioxane/ H2O (50:50) and bound to an ion exchange resin (Dowex-AG50 H+ form) chromatography column. It was eluted with dioxane/H2O (50:50) until organic impurities are removed. The column was eluted with 10% aqueous pyridine and the ninhydrin fractions were combined. The solvent was removed and the solid was crystallised from H2O to give a white solid (0.128 g, 12%). m.p.=218.1-221.7 ° C. (dec.); 1H NMR (300 MHz, NaOD/ D2O) 7.7-8.8 (m, 9H, Ar), 5.6 (d, 0.5H, CH—CO2H, JAB=2.6Hz), 4.8 (d, 0.5H, CH—CO2H, JAB=2.6Hz), 4.4 (d, 0.4H, CH—CO2H, JAB=12.0Hz), 3.6 (d, 0.4H, CH—CO2H, JAB=12.0Hz), 2.5-3.8 (m, 4H, N—CH2CH2—NH); Elemental analysis calculated for C21,H18N2O5. 2.3H2O C:60.07, H:5.44, N:6.67. Found C:60.06, H:5.38, N: 6.85. The cis-isomerism was confirmed by COSEY 1H NMR.

reactant | 2-Carboxyphenanthrene | 0.009 mol, 2 g | C(=O)(O)C1=CC=2C=CC3=CC=CC=C3C2C=C1 | C15H10O2
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Piperazine-2,3-dicarboxylic acid | 0.003 mol, 0.508 g | N1C(C(NCC1)C(=O)O)C(=O)O | C6H10N2O4
reactant | sodium hydroxide | 0.009 mol, 0.991 M, 9.4 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (±)-cis-1-(Phenanthrene-2-ylcarbonyl)Piperazine-2,3-Dicarboxylic Acid | 0.128 g, 12% | C1=C(C=CC=2C3=CC=CC=C3C=CC12)C(=O)N1[C@H]([C@H](NCC1)C(=O)O)C(=O)O | C21H18N2O5
